* Copyright © Linear Technology Corp. 2004.  All rights reserved.
*
.subckt LT3028 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
Q1 N006 N004 13 0 PN
Q2 N004 N008 5 0 NA1
Q3 N008 N003 N010 0 NP temp=27
C1 N008 N003 27p Rser=225K
Q4 N003 N003 1 0 NP 10 temp=27
R2 1 5 12K
R3 N010 5 10K
C2 3 N003 15p
Q5 3 16 N009 0 FB temp=27
R6 N009 1 106.8K
R5 15 5 10Meg
I1 15 5 1µ load
A1 15 5 5 5 5 5 N002 5 SCHMITT Vt=.75 Vh=1m trise=1m
G2 13 N003 N002 5 1.2µ
G1 13 N008 N002 5 1.2µ
R1 13 N004 600K
R8 N006 3 .1
A2 N005 5 N008 N008 N008 N008 5 N008 VARISTOR
D3 5 N005 F
G3 5 N005 3 N006 10m
Q7 N003 N004 N006 0 P 1m
D1 13 3 X
C5 3 5 10p
C7 13 5 10p
C8 1 5 1p
G5 N005 5 N002 5 table(0 1.85m 1 0)
C4 13 N003 100p Rser=45G Rpar=6G
Q6 N018 N016 11 0 PN
Q8 N016 N020 5 0 NA
Q9 N020 N015 N022 0 NP temp=27
C6 N020 N015 12p Rser=350K
Q10 N015 N015 8 0 NP 10 temp=27
R4 8 5 12K
R11 N022 5 10K
C9 6 N015 15p
Q11 6 9 N021 0 FB temp=27
R12 N021 8 106.8K
R13 10 5 20Meg
I2 10 5 1µ load
A3 10 5 5 5 5 5 N013 5 SCHMITT Vt=.8 Vh=1m trise=1m
G6 11 N015 N013 5 1.2µ
G7 11 N020 N013 5 1.2µ
R14 11 N016 600K
R15 N018 6 1.17
A4 N017 5 N020 N020 N020 N020 5 N020 VARISTOR
D2 5 N017 F
G8 5 N017 6 N018 10m
Q12 N015 N016 N018 0 P 1m
D4 11 6 X
C11 6 5 10p
C13 8 5 1p
G9 5 N017 11 5 table(1.3 1m 2.4 3m 10 4m)
G10 N017 5 N013 5 table(0 3m 1 0)
C14 11 N015 100p Rser=.67G Rpar=6G
G4 5 N005 13 5 table(1.3 1m 2.4 1.85m 10 2.3m)
C12 11 5 10p
.model PN PNP(BF=25 Cje=150p Cjc=150p Tf=10n)
.model NA NPN(BF=500K Cje=.5p Cjc=.5p Re=40)
.model NP NPN(Cje=1p Cjc=1p BF=150)
.model FB NPN(Cje=5p Cjc=5p BF=150)
.model F D(Ron=1m Roff=10K)
.model P PNP(BF=100)
.model X D(Ron=10 Vfwd=30)
.model NA1 NPN(BF=650K Cje=.5p Cjc=.5p Re=10)
.ends LT3028
